* D:\Universidad\CMOS Image Sensor\Simulaciones\4TAPS.asc
V1 Vdd 0 5
V2 Vreset 0 PULSE(0 5 0 1p 1p 'treset1' 'tperiodo' 4)
V3 Vtransfer 0 PULSE(0 5 0 1p 1p 'ttransfer1' 'tperiodo' 4)
M1 FD Vtransfer2 Vdiodo 0 CMOSN l='Lmin' w='W' ad='W*Ld' as='W*Ld' pd='2*W+2*Ld' ps='2*W+2*Ld' m=1
D1 0 Vdiodo D
C1 Vdiodo 0 100f
V4 Vrowselect 0 PULSE(0 5 'rowselect' 1p 1p 0.5m 'tperiodo' 4)
M2 Vdd Vreset2 FD 0 CMOSN l='Lmin' w='W' ad='W*Ld' as='W*Ld' pd='2*W+2*Ld' ps='2*W+2*Ld' m=1
M3 Vdd FD N001 0 CMOSN l='Lmin' w='W' ad='W*Ld' as='W*Ld' pd='2*W+2*Ld' ps='2*W+2*Ld' m=1
M4 out Vrowselect N001 0 CMOSN l='Lmin' w='W' ad='W*Ld' as='W*Ld' pd='2*W+2*Ld' ps='2*W+2*Ld' m=1
I2 out 0 1n
V5 Vreset2 Vreset PULSE(0 5 'treset2' 1p 1p 0.25m 'tperiodo' 4)
V6 Vtransfer2 Vtransfer PULSE(0 5 'ttransfer2' 1p 1p 0.5m 'tperiodo' 4)
G1 Vdiodo 0 Vsweep 0 1
V7 Vswcurrent1 0 PULSE(0 'current1' 0 1p 1p 'tswcurrent' 'tperiodo' 1)
V8 Vswcurrent2 Vswcurrent1 PULSE(0 'current2' 5m 1p 1p 'tswcurrent' 'tperiodo' 1)
V9 Vswcurrent3 Vswcurrent2 PULSE(0 'current3' 10m 1p 1p 'tswcurrent' 'tperiodo' 1)
V10 Vswcurrent4 Vswcurrent3 PULSE(0 'current4' 15m 1p 1p 'tswcurrent' 'tperiodo' 1)
V11 Vsweep 0 PULSE(0 'currentsweep' 0 1p 1p 'tswcurrent' 'tperiodo' 1)
.model D D
.lib C:\Users\Jnfraa\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Jnfraa\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m *Solo un ciclo
.param tperiodo = 5m
.param treset1 = 0.25m
.param ttransfer1 = 0.20m
.include IEE3433Lib_TT.sp
.param rowselect = 4m
.param Lmin = 0.6u, W = 3u, Ld=1.2u
.param treset2 = 2.5m
.param ttransfer2 = 3m
.param tswcurrent = 3m
.param current1 = 100p, current2= 50p, current3=10p, current4=0p
.MEAS TRAN vout1 FIND V(out) AT 4.25m
.MEAS TRAN vout2 FIND V(out) AT 9.25m
.MEAS TRAN vout3 FIND V(out) AT 14.25m
.MEAS TRAN vout4 FIND V(out) AT 19.25m
.param currentsweep=100p
* *.tran 20m * Cuatro ciclos
.backanno
.end
